US07943795B2
G. 6-[1-Ethyl-1-(4-hydroxy-3-methylphenyl)propyl]naphthalene-2-carboxylic acid methyl ester
Cool a solution of 6-(1-ethyl-propenyl)naphthalene-2-carboxylic acid methyl ester (0.74 g, 2.75 mmol) and o-cresol (2.0 mL, 19.4 mmol) in CH2CL2 (20 mL) to −78° C.; dropwise add BF3-OEt2 (1.22 mL, 9.6 mmol). Remove the cooling bath and stir the reaction at RT for 16 h. Quench the reaction with ice water; then dilute with EtOAc (200 mL). Wash the resulting mixture twice with brine, dry over Na2SO4, filter, and concentrate the filtrate. Purify the product using medium pressure silica gel chromatography (100% hex to 25:75 EtOAc:hex) to give the title compound as a white solid (0.87 g, 87%). MS (ES) in/e 363 (M+1).

reactant | 6-(1-ethyl-propenyl)naphthalene-2-carboxylic acid methyl ester | 2.75 mmol, 0.74 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)C(=CC)CC | C17H18O2
reactant | o-cresol | 19.4 mmol, 2.0 mL | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 OEt2 | 9.6 mmol, 1.22 mL | B(F)(F)F.O(CC)CC
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 6-[1-Ethyl-1-(4-hydroxy-3-methylphenyl)propyl]naphthalene-2-carboxylic acid methyl ester | 0.87 g, 87% | COC(=O)C1=CC2=CC=C(C=C2C=C1)C(CC)(C1=CC(=C(C=C1)O)C)CC | C24H26O3
